US07728176B2
A 300-ml four-necked flask was equipped with a stirrer, a thermometer and a reflux condenser. 16.4 g (48 mmol) of sodium tetraphenylborate and 66 ml of water were weighed in the flask, followed by stirring to dissolve sodium tetraphenylborate. While the stirring was continuously carried out, the aqueous solution of tri-tert-butylphosphine sulfate was added to the solution, and the mixture was stirred at 25° C. for 3 hours. After the completion of the reaction, the precipitated product was filtered off. The so obtained crystal was suspended in 100 ml of toluene at 50° C., and the suspension was cooled to 25° C. and filtered. The product filtered off was washed with 100 ml of toluene. The crystal was then suspended in 100 ml of methanol at 50° C., and the suspension was cooled to 25° C. and filtered. The product filtered off was washed with 100 ml of methanol. The crystal obtained was dried to give 19.4 g of objective tri-tert-butylphosphonium tetraphenylborate as white crystal. The yield (mol %) was 93% based on tri-tert-butylphosphine.

reactant | sodium tetraphenylborate | 48 mmol, 16.4 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | water | 66 ml | O | H2O
reactant | tri-tert-butylphosphine sulfate | S(=O)(=O)(O)O.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | tri-tert-butylphosphonium tetraphenylborate | 19.4 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C | InChI=1S/C24H20B.C12H27P/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-10(2,3)13(11(4,5)6)12(7,8)9/h1-20H;1-9H3/q-1;/p+1
